US06809096B1
1. Synthesis of 2,4-dichloroquinoline-5,8-dione
Cerium ammonium nitrate (CAN 21.4 g, 39.03 mmol) is added portionwise to a solution of 2,4-dichloro-5,8-dimethoxyquinoline (2.85 g, 11.04 mmol) in a CH3CN/H2O mixture (150 ml/75 ml). The reaction mixture is stirred at ambient temperature for 40 min. The acetonitrile is subsequently evaporated and 50 ml of water and 200 ml of a saturated NaHCO3 solution are added. The aqueous phase is extracted with CH2Cl2 (5 times 200 ml). After drying over MgSO4, the solvent is evaporated on a rotary evaporator to give the expected compound in the form of a brown powder (1.9 g).

reactant | Cerium ammonium nitrate | 39.03 mmol, 21.4 g | [N+](=O)([O-])[O-].[NH4+].[Ce]
reactant | 2,4-dichloro-5,8-dimethoxyquinoline | 11.04 mmol, 2.85 g | ClC1=NC2=C(C=CC(=C2C(=C1)Cl)OC)OC | C11H9Cl2NO2
solvent | CH3CN H2O | 150 ml | CC#N.O
product | 2,4-dichloroquinoline-5,8-dione | Yield: 75% | ClC1=NC=2C(C=CC(C2C(=C1)Cl)=O)=O | C9H3Cl2NO2
